US06110946
1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-valyl)-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane
Under an argon atmosphere, 344 mg of 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane and 191 μl (1.74 mmol) of NMM in 5.6 ml of DMF are added to 122 mg (0.696 mmol) of N-methoxycarbonyl-(L)-valine and 173 mg (0.58 mmol) of TPTU in 2.9 ml of DMF and the mixture is stirred at room temperature for 16 hours. The reaction mixture is poured into ice-water, stirred for 30 min and filtered. Column chromatography of the residue (SiO2 ; methylene chloride/THF 4:1) and stirring in ether yield the title compound: m.p: 134-135° C.; HPLC20-100 : tRet =14.0; FAB MS (M+H)+ =697.

reactant | 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | 344 mg | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)N | C28H37N5O4S
reactant | NMM | 1.74 mmol, 191 μl | CN1CCOCC1 | C5H11NO
reactant | N-methoxycarbonyl-(L)-valine | 0.696 mmol, 122 mg | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | TPTU | 0.58 mmol, 173 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
solvent | DMF | 5.6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.9 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-valyl)-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | S1C=NC=C1C1=CC=C(C=C1)C(N(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)C([C@@H](NC(=O)OC)C(C)C)=O)N | C35H48N6O7S
